US08304036B2
16.4 Preparation of 2-bromo-5-propylselenophene
24.3 g (about 0.97 mol) of crude 2-propylselenophene are initially introduced in 100 ml of diethyl ether, and 64.5 ml (0.10 mol, 15% soln. in hexane) of n-BuLi are rapidly metered. The mixture is heated under reflux for 1 h and subsequently cooled to −70° C. 16.5 g (0.10 mol) of bromine are added, and the batch is stirred for 1 h at 0° C. and for 3 h at RT. The mixture is added to semi-conc. sodium hydrogensulfite soln., and the organic phase is separated off. The aqueous phase is extracted with MTBE, and the combined organic phases are washed with sat. sodium chloride soln. The solution is dried using sodium sulfate and concentrated to dryness. The residue is purified by vacuum distillation.

reactant | 2-propylselenophene | about 0.97 mol, 24.3 g | C(CC)C=1[Se]C=CC1 | C7H10Se
reactant | n-BuLi | 0.10 mol, 64.5 ml | [Li]CCCC
reactant | bromine | 0.10 mol, 16.5 g | BrBr | Br2
reactant | sodium hydrogensulfite | S(=O)(O)[O-].[Na+]
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 2-bromo-5-propylselenophene | BrC=1[Se]C(=CC1)CCC | C7H9BrSe
